US05055387
Intermediate 4: 4-Hexylsulfonamidobenzoylacetonitrile
A solution of 3.7 grams (0.02 Mol) hexane sulfonyl chloride, 3.2 grams (0.02 Mol) 4-aminobenzoylacetonitrile and 5 mL of pyridine was stirred at 0° C. for 1.5 hours. The resulting very thick brown solution was dissolved in 15 mL of methanol and dropwise added to 100 mL of 2N hydrochloric acid at 0° C. A tan precipitate formed which was stirred for 30 minutes, then filtered and washed with water and dried for 2 hours at 50° C./10 mm Hg to give 6.9 grams of crude product. This was recrystallized from aqueous ethanol to give 4.2 grams (13.6 mMol, 68% yield) of pure product, m.p.=125°-127° C.

reactant | hexane sulfonyl chloride | 0.02 Mol, 3.7 grams | C(CCCCC)S(=O)(=O)Cl | C6H13ClO2S
reactant | 4-aminobenzoylacetonitrile | 0.02 Mol, 3.2 grams | NC1=CC=C(C(=O)CC#N)C=C1 | C9H8N2O
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 2N, 100 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 4-Hexylsulfonamidobenzoylacetonitrile | 13.6 mMol, 4.2 grams, 68% yield | C(CCCCC)S(=O)(=O)NC1=CC=C(C(=O)CC#N)C=C1 | C15H20N2O3S
